US06559143B1
tert-Butyl 2-bromoethylcarbamate
Sodium bicarbonate (6.15 g, 0.073 mol) and di-t-butyl dicarbonate (11.18 g, 0.051 mol) were dissolved in a mixture of H2O (50 mL) and dichloromethane (150 mL), then cooled to 0° C. 2-Bromoethylamine hydrobromide (10.0 g, 0.049 mol) was added slowly as a solid, and the reaction was stirred overnight at 25° C. The dichloromethane layer was separated, washed with H2O (200 mL). and washed with a solution of potassium hydrogensulfate (150 mL, pH=3.5). The organic layer was dried (Na2SO4) and concentrated in vacuo. The crude oil was chromatographed on silica gel, eluting with dichloromethane to afford 7.87 g (72%) of the sub-title compound as a clear, colorless oil.

reactant | Sodium bicarbonate | 0.073 mol, 6.15 g | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 0.051 mol, 11.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-Bromoethylamine hydrobromide | 0.049 mol, 10.0 g | Br.BrCCN
solvent | H2O | 50 mL | O | H2O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | tert-Butyl 2-bromoethylcarbamate | 7.87 g, 72% | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
